US08669266B2
(ii) 4-(2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]amino}-acetyl)-piperazine-1-carboxylic acid butyl ester
To a solution of 6 g 4-{2-[(4-Hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester and 2.5 g benzyl-L-lactate in 97 ml THF were added 5.5 g triphenylphosphine and 3.6 g diethylazodicarboxylate. After stirring for 16 h at RT LCMS indicated complete conversion and water was added to the reaction mixture which was then extracted with ethyl acetate. The residue obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 5.5 g

reactant | 4-{2-[(4-Hydroxy-7-methyl-quinoline-2-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | 6 g | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C)=O | C22H28N4O5
reactant | benzyl-L-lactate | 2.5 g | C(C1=CC=CC=C1)OC([C@@H](O)C)=O | C10H12O3
reactant | triphenylphosphine | 5.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 3.6 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 97 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-{[4-((R)-1-Benzyloxycarbonyl-ethoxy)-7-methyl-quinoline-2-carbonyl]amino}-acetyl)-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@H](C)C(=O)OCC1=CC=CC=C1)C)=O | C32H38N4O7
